*HCMOS BERKELEY SPICE MODELS
* HCT.CIR
* HC AND HCT PRODUCT FAMILY
* STANDARD LOGIC PRODUCT GROUP
* NXP SEMICONDUCTORS
*
* Version Date       By   Remarks
* ---------------------------------------------------------------------
*    1.2  30/03/2011 RRV  Rewritten netlists to add package options.
*    1.12 27/10/2010 RRV  Added HC(T)240/253
*    1.11 06/07/2010 RRV  Added HC(T)02/08/86
*    1.10 10/12/2009 RRV  Removed HCT05
*    1.09 09/22/2009 RRV  Corrected typo in SWITCH3N
*    1.08 09/04/2009 RRV  Added HC(T)4020/4060
*    1.07 03/27/2009 RRV  Added HC(T)05
*    1.06 02/20/2006 RRV  Added HC(T)366/368
*    1.05 10/27/2005 RRV  Updated HC/T04 and HCU04 models
*    1.04 09/22/2003 RM   Active High Enable for SWI2 and SWI2T
*
*--------------------------------------------------------------*
*SIMULATION MODULES OF CMOS LOGIC PARTS OF NXP SEMICONDUCTORS  *
*HCMOS FAMILY IN BERKELEY SPICE FORMAT                         *
*--------------------------------------------------------------*
* IN ORDER TO SIMULATE A SPECIFIC HCMOS DEVICE, GO TO THE END  *
* OF THE FILE UNDER HEADING 'START RUNNING CIRCUIT MODEL' AND  *
* REMOVE THE COMMENT STATEMENT '*' BEFORE THE REQUIRED DEVICE. *
* ALL OTHER DEVICES MUST HAVE AN '*' COMMENT STATEMENT.        *
* IF YOU LIKE TO SIMULATE WITH FAST OR SLOW PARAMETERS, GO TO  *
* HEADING 'PROCESS MODELS' AND REMOVE THE COMMENT STATEMENT '*'*
* BEFORE THE REQUIRED PROCESS MODEL.                           *
* YOU MAY ONLY SIMULATE ONE DEVICE AT THE TIME.                *
* THE LOAD CIRCUIT AND SIMULATION TIMING SHOULD NORMALLY BE    *
* ADAPTED TO YOUR SPECIFIC SITUATION.                          *
*--------------------------------------------------------------*

******************************************************************
*                                                                *
* These HCMOS models represent only one data input and one output*
* of the device. Devices with a 3-state output buffer also have  *
* an Output Enable (OE) input. The HC138 also has an Input Enable*
* (EN) input. Other control inputs such as DIR or CLK inputs are *
* not modeled. Circuitry between the input and output buffers are*
* also omitted, such as gates, registers, latches, mux's and     *
* intermediate buffers. One result of this is that HC models do  *
* not show the exact function of the device.  Another result of  *
* this is that propagation delays in SPICE will not necessarily  *
* match with the published AC timing specifications in the device*
* datasheet.                                                     *
*                                                                *
******************************************************************

**********************************************************
.OPTIONS  ACCT   LIST  OPTS  ITL5=25000  NOMOD INGOLD=2

* Nominal parameters
.INC hc_tnomi.cir

* Fast parameters
*.INC hc_tfast.cir

* Slow parameters
*.INC hc_tslow.cir

**********************************************************
* Package Options
**********************************************************
*.INC ssop.s
*.INC so.s
*.INC dip.s
.INC tssop.s
*.INC dhvqfn.s

*************  START RUNNING CIRCUIT MODEL  **************
XHC00     2  3  1  0        HC00pck
*XHCT00    2  3  1  0        HCT00pck
*XHC02     2  3  1  0        HC02pck
*XHCT02    2  3  1  0        HCT02pck
*XHC04     2  3  1  0        HC04pck
*XHCT04    2  3  1  0        HCT04pck
*XHCU04    2  3  1  0        HCU04pck
*XHC05     2  3  1  0        HC05pck
*XHC08     2  3  1  0        HC08pck
*XHCT08    2  3  1  0        HCT08pck
*XHC14     2  3  1  0        HC14pck
*XHCT14    2  3  1  0        HCT14pck
*XHC32     2  3  1  0        HC32pck
*XHCT32    2  3  1  0        HCT32pck
*XHC74     2  3  1  0        HC74pck
*XHCT74    2  3  1  0        HCT74pck
*XHC86     2  3  1  0        HC86pck
*XHCT86    2  3  1  0        HCT86pck
*XHC123    2  3  1  0        HC123pck
*XHCT123   2  3  1  0        HCT123pck
*XHC132    2  3  1  0        HC132pck
*XHCT132   2  3  1  0        HCT132pck
*XHC138    2  5  3  1  0     HC138pck
*XHCT138   2  5  3  1  0     HCT138pck
*XHC161    2  3  1  0        HC161pck
*XHCT161   2  3  1  0        HCT161pck
*XHC163    2  3  1  0        HC163pck
*XHCT163   2  3  1  0        HCT163pck
*XHC240    2  5  3  1  0     HC240pck
*XHCT240   2  5  3  1  0     HCT240pck
*XHC244    2  5  3  1  0     HC244pck
*XHCT244   2  5  3  1  0     HCT244pck
*XHC245    2  5  3  1  0     HC245pck
*XHCT245   2  5  3  1  0     HCT245pck
*XHC253    2  5  3  1  0     HC253pck
*XHCT253   2  5  3  1  0     HCT253pck
*XHC273    2  3  1  0        HC273pck
*XHCT273   2  3  1  0        HCT273pck
*XHC366    2  5  3  1  0     HC366pck
*XHCT366   2  5  3  1  0     HCT366pck
*XHC368    2  5  3  1  0     HC368pck
*XHCT368   2  5  3  1  0     HCT368pck
*XHC373    2  5  3  1  0     HC373pck
*XHCT373   2  5  3  1  0     HCT373pck
*XHC374    2  5  3  1  0     HC374pck
*XHCT374   2  5  3  1  0     HCT374pck
*XHC595    2  5  3  1  0     HC595pck
*XHCT595   2  5  3  1  0     HCT595pck
*XHC4020   2  3  1  0        HC4020pck
*XHCT4020  2  3  1  0        HCT4020pck
*XHC4040   2  3  1  0        HC4040pck
*XHCT4040  2  3  1  0        HCT4040pck
*XHC4051   2  3  4  5  1  0  HC4051pck
*XHCT4051  2  3  4  5  1  0  HCT4051pck
*XHC4052   2  3  4  5  1  0  HC4052pck
*XHCT4052  2  3  4  5  1  0  HCT4052pck
*XHC4053   2  3  4  5  1  0  HC4053pck
*XHCT4053  2  3  4  5  1  0  HCT4053pck
*XHC4060   2  5  3  1  0     HC4060pck
*XHCT4060  2  5  3  1  0     HCT4060pck
*XHC4066   2  3  4  1  0     HC4066pck
*XHCT4066  2  3  4  1  0     HCT4066pck
*XHC4316   2  3  4  5  1  0  HC4316pck
*XHCT4316  2  3  4  5  1  0  HCT4316pck
*XHC4538   2  3  1  0        HC4538pck
*XHCT4538  2  3  1  0        HCT4538pck


*********************** EXTERNAL TEST LOAD ************************
*R1  3  1  1K
* Use only for 3-state Tplz

*R1  3  0  1K
* Use only for 3-state Tphz

*R1  3  0  1K
C1  3  0  50P
* Datasheet specifies Cload only.

* RPU   3  1 1K
* For Open-drain types
*******************************************************************


VCC   1  0  DC   4.5
VIN1  2  0  PULSE 0  4.5  5N  6N  6N  40N  80N

VEN   5  0  DC   0.0
* Use for HC(T)138/244/245/373/374/595

***************************** SWITCH *******************************

****Use ONLY with TRAN. ANAL. (4051 / 4052 / 4053 / 4066 / 4316)****

*VCC   1  0  DC    4.5
*VIN1  2  0  PULSE 0  4.5  5N  6N  6N  80N  160N
*VIN2  3  0  DC    4.5

*VEE   5  0  DC    0.0
*Do not use with 4066

*RZ    4  0  1K
*CL    4  0  50P

********************************************************************


* Use this part only for 4051 - 4053 and the 4316 Ron calculations *
*VEE   5  0  DC  -4.5
*VIN2  2  0  DC   4.5

*VIN3  3  5  PULSE 0  4.5  5N  6N  6N  40N  80N
*Only for TRAN

*VIN4  3  5  DC   9.0
*ILAST 4  5  DC   1mA
*C2    4  0  50P
********************************************************************


******* Use this part only for the 4066 Ron calculations ***********
*VIN2  2  0  DC   4.5

*VIN3  3  0  PULSE 0  4.5  5N  6N  6N  40N  80N
*Only for TRAN

*VIN4  3  0  DC   4.5
*ILAST 4  0  DC   1mA
*C2    4  0  50P
********************************************************************

.TRAN  1N   180N
.PRINT TRAN  V(3)

*PRINT TRAN  V(2)  V(4)
*Only for 4051 - 4316 with TRAN analyse

.OPTIONS ITL4 = 50
.OPTIONS POST=2

.PROBE V(2)  V(3)
.END
